US07399775B2
2-[1-[(4-Chlorophenyl)sulfonyl]-1-penten-1-yl]-1,4-difluorobenzene
At 0° C., triethylamine (0.131 ml, 0.942 mmol) and methanesulfonyl chloride (0.0665 ml, 0.856 mmol) were added to a solution of 1-[(4-chlorophenyl)sulfonyl]-1-(2,5-difluorophenyl)-2-pentanol (204 mg, 0.544 mmol) in methylene chloride (10 ml). After stirring at 0° C. for 1 hour, the reaction mixture was diluted with methylene chloride, washed successively with a saturated aqueous ammonium chloride solution, water and brine, dried over MgSO4, and then concentrated. The residue was dissolved in tetrahydrofuran (5 ml). After cooling the solution to 0° C., potassium hexamethyldisilazide (a 0.5M toluene solution, 1.30 ml, 0.650 mmol) was added thereto. The resulting mixture was stirred at 0° C. for 3 hours, and saturated ammonium chloride was added thereto. The resulting mixture was extracted with ethyl acetate, washed successively with water and brine, dried over MgSO4, and then concentrated. The residue thus obtained was purified by medium-pressure chromatography on a silica gel column (15% ethyl acetate-hexane). The resulting solid was recrystallized from hexane, whereby the title compound (33.0 mg, 17%) was obtained as colorless needle crystals.

reactant | triethylamine | 0.942 mmol, 0.131 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.856 mmol, 0.0665 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-[(4-chlorophenyl)sulfonyl]-1-(2,5-difluorophenyl)-2-pentanol | 0.544 mmol, 204 mg | ClC1=CC=C(C=C1)S(=O)(=O)C(C(CCC)O)C1=C(C=CC(=C1)F)F | C17H17ClF2O3S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-[1-[(4-Chlorophenyl)sulfonyl]-1-penten-1-yl]-1,4-difluorobenzene | ClC1=CC=C(C=C1)S(=O)(=O)C(=CCCC)C1=C(C=CC(=C1)F)F | C17H15ClF2O2S
